US04393217
As for Example 1, 2-cyano-2'-ethylacetanilide as long needles, m.p. 128°-130° C. (prepared by the procedure described in U.S. Pat. No. 3,116,312), is heated with N,N-dimethylformamide dimethylacetal to yield 2-cyano-3-dimethylamino-2'-ethylacrylanilide as colorless prisms, m.p. 102.5°-104° C.

reactant | 2-cyano-2'-ethylacetanilide | C(#N)CC(=O)NC1=C(C=CC=C1)CC | C11H12N2O
reactant | N,N-dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | 2-cyano-3-dimethylamino-2'-ethylacrylanilide | C(#N)C(C(=O)NC1=C(C=CC=C1)CC)=CN(C)C | C14H17N3O
